US06384080B1
To a solution of 2-[(3S, 5S)-1-(tert-butoxycarbonyl)-5-(methoxycarbonyl)pyrrolidin-3-ylamino]-N-(3,4-dimethoxylbenzyl)-5-nitrobenzamide (492 mg) in tetrahydrofuran (5 mL) was added lithium chloride (75 mg), and then a solution of sodium borohydride (67 mg) in ethanol (10 mL) at ambient temperature. After stirring for one day, the mixture was evaporated and the residue was partitioned between ethyl acetate and 10% citric acid aqueous solution. The organic layer was separated, washed with water and brine and dried over magnesium sulfate. The residue was subjected to a silica gel column chromatography eluting with a mixture of ethyl acetate and hexane (1:1 to 2:1) to give 2-[(3S,5S)-1-(tert-butoxycarbonyl)-5-(hydroxymethyl)pyrrolidin-3-ylamino]-N-(3,4-dimethoxylbenzyl)-5-nitrobenzamide (399 mg) as pale yellow foams.

reactant | 2-[(3S, 5S)-1-(tert-butoxycarbonyl)-5-(methoxycarbonyl)pyrrolidin-3-ylamino]-N-(3,4-dimethoxylbenzyl)-5-nitrobenzamide | 492 mg | C(C)(C)(C)OC(=O)N1C[C@H](C[C@H]1C(=O)OC)NC1=C(C(=O)NCC2=CC(=C(C=C2)OC)OC)C=C(C=C1)[N+](=O)[O-] | C27H34N4O9
reactant | lithium chloride | 75 mg | [Cl-].[Li+]
reactant | sodium borohydride | 67 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-[(3S,5S)-1-(tert-butoxycarbonyl)-5-(hydroxymethyl)pyrrolidin-3-ylamino]-N-(3,4-dimethoxylbenzyl)-5-nitrobenzamide | 399 mg | C(C)(C)(C)OC(=O)N1C[C@H](C[C@H]1CO)NC1=C(C(=O)NCC2=CC(=C(C=C2)OC)OC)C=C(C=C1)[N+](=O)[O-] | C26H34N4O8
